US04666835
6β-Phenoxyacetylamino-2α-vinyl-2β-methylpenam-3-carboxylic acid
6β-Amino-2α-vinyl-2β-methylpenam-3-carboxylic acid is acylated in acetone-water with phenoxyacetyl chloride in the presence of sodium carbonate to provide the title compound.

reactant | 6β-Amino-2α-vinyl-2β-methylpenam-3-carboxylic acid | N[C@H]1[C@@H]2N(C([C@@](S2)(C)C=C)C(=O)O)C1=O | C9H12N2O3S
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone water | CC(=O)C.O
product | 6β-Phenoxyacetylamino-2α-vinyl-2β-methylpenam-3-carboxylic acid | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C([C@@](S2)(C)C=C)C(=O)O)C1=O | C17H18N2O5S
